US04038396
A mixture of 700mg. of 2-(3-nitrophenyl)oxazolo[4,5-b]pyridine in 50 ml. of ethanol was hydrogenated over 150 mg. of 5% palladium-on-carbon catalyst. The catalyst was removed by filtration and the solvent was concentrated to dryness. The residue was recrystallized from chloroformpetroleum ether to give 2-(3-aminophenyl)oxazolo[4,5-b]pyridine, m.p. 179°-180.5° C.

reactant | 2-(3-nitrophenyl)oxazolo[4,5-b]pyridine | [N+](=O)([O-])C=1C=C(C=CC1)C=1OC=2C(=NC=CC2)N1 | C12H7N3O3
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 2-(3-aminophenyl)oxazolo[4,5-b]pyridine | NC=1C=C(C=CC1)C=1OC=2C(=NC=CC2)N1 | C12H9N3O
